US07071201B2
(280-1) 1-Hydroxy-7-methoxy-1,2,3,4-tetrahydronaphthalene
1-(4-Acetylpiperazin-1-yl)-7-methoxy-1,2,3,4-tetrahydronaphthalene (0.85 g) was dis solved in ethanol (10 ml). After adding an 8 N aqueous solution (3 ml) of sodium hydroxide, the resultant mixture was heated under reflux for 3 hr. Then the liquid reaction mixture was concentrated under reduced pressure and the residue was purified by NH-silica gel column chromatography (ethyl acetate) to give the title compound (0.6 g) as a pale brown oil. (280-4) 1-[4-(4-Fluorophenylacetyl)piperazin-1-yl]-7-methoxy-1,2,3,4-tetrahydronaphthalene

reactant | 1-(4-Acetylpiperazin-1-yl)-7-methoxy-1,2,3,4-tetrahydronaphthalene | 0.85 g | C(C)(=O)N1CCN(CC1)C1CCCC2=CC=C(C=C12)OC | C17H24N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-Hydroxy-7-methoxy-1,2,3,4-tetrahydronaphthalene | 0.6 g | OC1CCCC2=CC=C(C=C12)OC | C11H14O2
